US08536343B2
Into a solution of 1.82 g of isobutyl 4-nitrophenyl carbonate in 15 mL of N,N-dimethylformamide, 1.50 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine was added at room temperature, and the solution was left reacting at the same temperature for 17 hours. Chloroform and water were added to the reaction mixture. The organic layer was separated, washed with water, a 5% potassium carbonate aqueous solution and a saturated sodium chloride aqueous solution successively, and dried over anhydrous magnesium sulfate, followed by solvent removal by evaporation under reduced pressure. The obtained residue was purified by a silica gel column chromatography (eluent; chloroform:methanol=4:1). The obtained residue was dissolved in chloroform, washed with a 5% potassium carbonate aqueous solution and a saturated sodium chloride aqueous solution successively, and dried over anhydrous magnesium sulfate. After removing the solvent by evaporation under reduced pressure, 1.43 g of 4-{3-[4-(3-{4-[amino(isobutoxycarbonylimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-(isobutoxycarbonyl)benzamidine was obtained as a white solid.

reactant | isobutyl 4-nitrophenyl carbonate | 1.82 g | C(OCC(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H13NO5
reactant | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 1.50 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C25H35N5O2
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-{3-[4-(3-{4-[amino(isobutoxycarbonylimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-(isobutoxycarbonyl)benzamidine | 1.43 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NC(=O)OCC(C)C)N)C=C2)C=C1)=NC(=O)OCC(C)C | C35H51N5O6
